US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 2,6-dimethylbenzoyl chloride according to the procedure of Example 19 to yield 5-(2,6-dimethylbenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 199.5°-201° C. after purification from ethanol.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2,6-dimethylbenzoyl chloride | CC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO
product | 5-(2,6-dimethylbenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | CC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C(=CC=C1)C | C19H22N2O
